US07312225B2
1i) Production of N-[3-(5-Bromo-2-chloro-pyrimidin-4-ylamino)-propyl]-3-nitro-benzenesulfonamide
A solution of 530 mg (1.76 mmol) of N-(5-bromo-2-chloro-pyrimidin-4-yl)-propane-1,3-diamine hydrochloride and 352 mg (1.60 mmol) of 3-nitrobenzenesulfonyl chloride in 20 ml of acetone/6 ml of water is mixed at room temperature with 1 ml of triethylamine. After 2.5 hours, the organic solvent is drawn off in a rotary evaporator. After water (20 ml) is added, it is extracted with ethyl acetate. The combined organic phases are washed with citric acid (10%), saturated NaHCO3 solution as well as saturated NaCl solution, dried (Na2SO4), filtered and concentrated by evaporation. 633 mg (1.41 mmol, corresponding to 87% of theory) of the product is obtained.

reactant | N-(5-bromo-2-chloro-pyrimidin-4-yl)-propane-1,3-diamine hydrochloride | 1.76 mmol, 530 mg | Cl.BrC=1C(=NC(=NC1)Cl)NCCCN
reactant | 3-nitrobenzenesulfonyl chloride | 1.60 mmol, 352 mg | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | water | O | H2O
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | N-[3-(5-Bromo-2-chloro-pyrimidin-4-ylamino)-propyl]-3-nitro-benzenesulfonamide | BrC=1C(=NC(=NC1)Cl)NCCCNS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C13H13BrClN5O4S
